US08217069B2
To a solution of ethyl 5-(tert-butoxycarbonylamino)-6-iodo-4-methylpyridine-2-carboxylate (1.94 g) in toluene (48 mL) was added diisobutylaluminium hydride (0.99 mol/L toluene solution, 25 mL) at −78° C., and the mixture was stirred under ice-cooling for 2 hours, and then stirred at room temperature overnight. The reaction mixture was poured into 1 mol/L hydrochloric acid, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane/ethyl acetate=9/1−1/9) to give 3-(tert-butoxycarbonylamino)-6-hydroxymethyl-2-iodo-4-methylpyridine (1 g). This material was dissolved in N,N-dimethylformamide (5 mL). To the solution were added imidazole (0.24 g) and tert-butyldimethylchlorosilane (0.46 g), and the mixture was stirred at room temperature for 2 hours. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: n-hexane−n-hexane/ethyl acetate=7/3) to give the title compound (1.3 g).

reactant | ethyl 5-(tert-butoxycarbonylamino)-6-iodo-4-methylpyridine-2-carboxylate | 1.94 g | C(C)(C)(C)OC(=O)NC=1C(=CC(=NC1I)C(=O)OCC)C | C14H19IN2O4
reactant | diisobutylaluminium hydride | 0.99 mol/L, 25 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | hydrochloric acid | 1 mol/L | Cl | ClH
solvent | toluene | 48 mL | C1(=CC=CC=C1)C | C7H8
product | 3-(tert-butoxycarbonylamino)-6-hydroxymethyl-2-iodo-4-methylpyridine | 1 g | C(C)(C)(C)OC(=O)NC=1C(=NC(=CC1C)CO)I | C12H17IN2O3
